US06608078B2
A mixture of 1-benzyl-4-hydroxy-3-trifluoromethylpiperidine (1.8 g, 6.94 mmole and 20% palladium hydroxide (0.5 g) in methanol (25 ml) was stirred in hydrogen atmosphere (1.atm.) for 17 hr at 50° C. Catalyst was filtered off, washed with methanol, filtrate was concentrated to dryness to give 4-hydroxy-3-trifluoromethylpiperidine as oil. Yield 0.7 g (60%), C6H10F3NO, m/z 170 (M+1).

reactant | 1-benzyl-4-hydroxy-3-trifluoromethylpiperidine | C(C1=CC=CC=C1)N1CC(C(CC1)O)C(F)(F)F | C13H16F3NO
solvent | methanol | 25 ml | CO | CH4O
solvent | hydrogen | [H][H] | H2
catalyst | palladium hydroxide | 0.5 g | [OH-].[Pd+2].[OH-]
product | 4-hydroxy-3-trifluoromethylpiperidine | OC1C(CNCC1)C(F)(F)F | C6H10F3NO
